US04003884
a. Z-Pro-cyclopropyl amide
To a solution of 124.6 g (0.5 mol) of Z-Pro-OH, 34.8 ml of cyclopropyl amine and 67.5 g HOBt in 200 ml of absolute tetrahydrofurane 110 g of DCC were added at 0° C, the solution was stirred for one hour at 0° C and allowed to stand over night at room temperature. The deposit was suction-filtered and the filtrate was concentrated. The residue was taken up in ethyl acetate and extracted with saturated NaHCO3 -solution, 2N HCl, saturated NaHCO3 -solution and water, dried over Na2SO4 and concentrated. The residue was triturated with petroleum ether and suction-filtered. The ethyl acetate/petroleum ether was recrystallized.

reactant | Z-Pro-OH | 0.5 mol, 124.6 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | cyclopropyl amine | 34.8 ml | C1(CC1)N | C3H7N
reactant | HOBt | 67.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofurane | 200 ml, 110 g | O1CCCC1 | C4H8O
product | Z-Pro cyclopropyl amide | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1.C1(CC1)[NH-] | InChI=1S/C13H15NO4.C3H6N/c15-12(16)11-7-4-8-14(11)13(17)18-9-10-5-2-1-3-6-10;4-3-1-2-3/h1-3,5-6,11H,4,7-9H2,(H,15,16);3-4H,1-2H2/q;-1/t11-;/m0./s1
